US03953476
Step B: Preparation of 3-Amino-4-chloro-5-mercaptobenzoic acid Hydrochloride
A solution of 3-nitro-4-chloro-5-chlorosulfonylbenzoic acid (33 g.; 0.11 mole) in acetic acid (550 ml.) is warmed to 70° C. on a water bath and treated in one portion with a solution of stannous chloride dihydrate (226 g.; 1.0 mole) in concentrated hydrochloride acid (190 ml.). The reaction is stirred at 70°-80° C. for one-half hour, chilled in ice and the tin complex which separates is filtered, rinsed with acetic acid and dissolved in water (300 ml.). The solution is treated with concentrated hydrochloric acid (150 ml.) whereupon 3-amino-4-chloro-5-mercaptobenzoic acid hydrochloride separates, m.p. = 239.5° C.; yield, 20.5 g. (77%).

reactant | 3-nitro-4-chloro-5-chlorosulfonylbenzoic acid | 0.11 mole, 33 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1Cl)S(=O)(=O)Cl | C7H3Cl2NO6S
solvent | acetic acid | 550 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloride | 190 ml | Cl | ClH
product | 3-Amino-4-chloro-5-mercaptobenzoic acid Hydrochloride | Cl.NC=1C=C(C(=O)O)C=C(C1Cl)S | InChI=1S/C7H6ClNO2S.ClH/c8-6-4(9)1-3(7(10)11)2-5(6)12;/h1-2,12H,9H2,(H,10,11);1H
